Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Leg pain, palpitations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female past medical history significant for LLE DVT 
just diagnosed on ___ started on Lovenox (70mg BID) 
presenting to the emergency department with worsening of her 
left knee pain. She reports this pain had started 6 weeks ago 
and initial ___ ultrasound did not show a thrombus. When the pain 
continued, she had a repeat ultrasound on ___ at 
___ which showed a DVT in the left popliteal and femoral 
veins. She was started on therapeutic lovenox. She continued to 
have LLE pain in her popliteal fossa which then extended to her 
left thigh. She presented to the ED as recommended by her PCP. 

Patient denies any chest pain or shortness of breath. Patient 
denies any numbness, weakness, tingling. Patient denies any 
hemoptysis or recent immobility. In the ED, initial vitals were: 
T 99.3, HR 145, BP 164/89, RR 18,
Sat 100% RA 
- Labs unremarkable
- Imaging was notable for: 
CTA chest: Pulmonary arteries are well opacified to the 
subsegmental level, with evidence of filling defect within the 
main, right pulmonary artery lobar and subsegmental lobar, 
segmental or subsegmental pulmonary arteries. The main and right 
pulmonary arteries are normal in caliber, and there is no
evidence of right heart strain.
- EKG showed sinus tachycardia to the 130s without evidence of 
strain. Normal axis. No ST segment changes.
- Patient was given: 1L NS.

Upon arrival to the floor, patient confirms the above history. 
Continues to have tenderness in the left popliteal fossa which 
extends to the left thigh. No numbness or tingling. Strength is 
normal. Pain worse with walking. Denies SOB, cough, hemoptysis. 
Denies personal history of clots. No history of malignancy or
family history of malignancy. Has a maternal aunt who passed 
away from "clots" in her ___ but unclear what the exact cause 
was. Maternal great grandmother with breast cancer. She is up to 
date with malignancy screening with her last pap smear last year 
which she reports was normal. Takes OCPs but no history of 
smoking 
 
Past Medical History:
IBS-Constipation
Vitamin B12 Deficiency
Dysmenorrhea 
Ovarian cyst s/p rupture
 
Social History:
___
Family History:
Has a maternal aunt who passed away from "clots" in her ___ but 
unclear what the exact cause was. Maternal great grandmother 
with breast cancer.
 
Physical Exam:
ADMISSION:
24 HR Data (last updated ___ @ 1608)
    Temp: 98.0 (Tm 98.0), BP: 150/90, HR: 117, RR: 18, O2 sat:
97%, O2 delivery: Ra  
GENERAL:  Very pleasant ___ female resting in bed
with NAD.
HEENT:  NC/AT. no scleral icterus or conjunctival injection. 
MMM.
CARDIAC:  Tachycardic with regular rhythm. Normal S1, S2. No
MRGs.
LUNGS: No increased WOB. CTAB. No wheezes, rales, rhonchi  
ABDOMEN:  Hyperactive BS. Soft, NT, ND. 
EXTREMITIES:  Left lower extremity with TTP in the left calf,
popliteal fossa and thigh. WWP. Pulses in ___ 2+. 
NEUROLOGIC:  Alert and oriented. Moving all extremities with
purpose. 
SKIN:  No lesions identified.

DISCHARGE:
___ 0424 Temp: 98.2 PO BP: 112/75 HR: 70 RR: 18 O2
sat: 98% O2 delivery: Ra 
GENERAL: Alert and oriented, no acute distress
ENT: NT/AC, PERRLA, EOMI
CV: Tachycardic, regular rhythm, no murmurs, rubs, or gallops
RESP: CTAB
GI: NT/ND, BS+
Extremities: Warm, distal pulses intact. RLE non-edematous, LLE
with trace edema in the calf. Strength and sensation intact
bilaterally.
 
Pertinent Results:
ADMISSION LABS
___ 09:57AM   ___ PTT-89.5* ___
___ 09:57AM   PLT COUNT-200
___ 09:57AM   NEUTS-61.7 ___ MONOS-4.8* EOS-1.8 
BASOS-0.2 IM ___ AbsNeut-3.77 AbsLymp-1.89 AbsMono-0.29 
AbsEos-0.11 AbsBaso-0.01
___ 09:57AM   WBC-6.1 RBC-5.33* HGB-13.1 HCT-41.3 MCV-78* 
MCH-24.6* MCHC-31.7* RDW-12.2 RDWSD-34.4*
___ 09:57AM   HCG-<5
___ 09:57AM   ALBUMIN-4.2
___ 09:57AM   proBNP-52
___ 09:57AM   cTropnT-<0.01
___ 09:57AM   LIPASE-32
___ 09:57AM   ALT(SGPT)-18 AST(SGOT)-22 ALK PHOS-91 TOT 
BILI-0.3
___ 09:57AM   estGFR-Using this
___ 09:57AM   GLUCOSE-92 UREA N-9 CREAT-1.0 SODIUM-140 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-21* ANION GAP-18

DISCHARGE LABS:

___ 06:02AM BLOOD WBC-3.2* RBC-4.52 Hgb-11.2 Hct-35.3 
MCV-78* MCH-24.8* MCHC-31.7* RDW-12.4 RDWSD-35.1 Plt ___
 
Brief Hospital Course:
SUMMARY
=======
___ female past medical history significant for LLE DVT 
just diagnosed on ___ started on Lovenox (70mg BID) who 
presented with in ___ pain and bilateral pulmonary embolism while 
on lovenox without evidence of right heart strain. She also was 
tachycardic on admission, which resolved with IV fluid 
administration and good PO intake.

ACUTE ISSUES
============
#Bilateral Pulmonary Embolism
#DVT
#Sinus Tachycardia
LLE femoral and popliteal DVT diagnosed on ___ and started on 
therapeutic lovenox. Has had progression of her DVT and 
diagnosed with PE in the main, right pulmonary artery lobar and 
subsegmental lobar, segmental or subsegmental pulmonary 
arteries. No evidence of right heart strain. VSS aside from 
sinus tachycardia, which improved after fluids and 
anticoagulation. Not entirely clear whether PE was asymptomatic 
and preceded Lovenox or if it developed while on Lovenox. Pt has 
one family member (aunt) who died from potential clotting 
disorder. No other problems with clotting in the past. On OCP, 
but does not smoke. She was initially placed on a heparin drip 
and transitioned to Apixaban. Plan for outpatient follow-up with 
hematology for hypercoagulability workup due to unprovoked DVT 
and possible development of PE while on lovenox treatment.

#Hgb Drop
Likely dilutional in the setting of IVF administration, as plt 
and WBC went down as well. No signs/symptoms of bleeding, and 
Hgb normalized.

CHRONIC/RESOVLED ISSUES
=======================
#IBS-C 
Currently stable. Has used Linzess in the past to positive 
effect, no longer on this med now. Occasionally uses mag citrate 
when constipated for several days. No issues this admission

#Vitamin B12 deficiency:
- Continued home vitamin B12 100mcg daily

TRANSITIONAL ISSUES
===================
[] Follow up with hematology on ___ for hypercoagulability 
workup.
[] Follow up with OB/GYN to change to a new contraceptive 
regimen in light of recent unprovoked DVT/PE.
[] WBC 3.5 on discharge. Likely dilutional in the setting of 
recent IVF administration, although WBC didn't improve like Hgb 
and Plt did after 24 hr without therapy. Repeat in 1 month to 
ensure normalization.
[] Continue to watch for signs/symptoms of bleeding with new 
anticoagulation regimen.

# CODE: Full (presumed) 
# CONTACT: ___ (Mother): ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 100 mcg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
RX *apixaban [Eliquis] 5 mg (74 tabs) asdir tablets(s) by mouth 
asdir Disp #*1 Dose Pack Refills:*0 
2.  Cyanocobalamin 100 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Pulmonary Embolism

Secondary:
-Deep Vein Thrombosis
-Tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had increased leg pain from your blood clot in your leg 
and a high heart rate. You were found to have a pulmonary 
embolism.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given IV fluids and we monitored your heart rate, 
which came down to normal levels.

- You were treated with IV medication to thin your blood and 
then changed to an oral blood thinner called Apixaban (or 
Eliquis), which you will continue to take for the next 6 months 
or until directed to stop by hematology.

- We stopped your oral contraceptive because they can increase 
the risk of future blood clots.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- You should follow up with hematology as below.

- You should also follow up with your new PCP, ___, as 
below.

- You should follow up with your OB/GYN Dr. ___ to discuss 
___ contraceptive options.

- Continue to take all your medicines including your Apixaban as 
directed.

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___